US03974176
5-Chloro-4-hydroxymethyl-1,3-diphenyl-pyrazole
To a solution of 21 g of 5-chloro-1,3-diphenyl-pyrazole-4-carboxaldehyde in 80 ml of dioxan there is added dropwise at 23° to 27° a solution of 1.11 g of sodium borohydride in 35 ml of water. The resulting suspension is stirred for a further 30 minutes and on the addition of 200 ml of water 5-chloro-4-hydroxymethyl-1,3-diphenyl-pyrazole is precipitated with a 99% yield; F 140.5°-141.5° (from toluene).

reactant | 5-chloro-1,3-diphenyl-pyrazole-4-carboxaldehyde | 21 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=CC=C1)C=O | C16H11ClN2O
reactant | sodium borohydride | 1.11 g | [BH4-].[Na+]
reactant | water 5-chloro-4-hydroxymethyl-1,3-diphenyl-pyrazole | 200 ml | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=CC=C1)CO.O
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 35 ml | O | H2O
product | 5-Chloro-4-hydroxymethyl-1,3-diphenyl-pyrazole | 99% yield | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=CC=C1)CO | C16H13ClN2O
